US05849921
Methyl 1-(4-Methyl-5-thiazolyl)-1-phenylmethyl Ether
Sodium hydride (80% dispersion in mineral oil, 80 mg) was added to a stirred solution of 1-(4-methyl-5-thiazolyl)-1-phenyl-methanol (500 mg) in dry N,N-dimethylformamide (10 ml) at 0° C. After 10 minutes, methyl iodide (0.15 ml) was added. The mixture was allowed to warm to room temperature and after a further 30 minutes the mixture was evaporated to dryness. The residue was purified by flash chromatography to give the title compound.

reactant | Sodium hydride | 80 mg | [H-].[Na+]
reactant | 1-(4-methyl-5-thiazolyl)-1-phenyl-methanol | 500 mg | CC=1N=CSC1C(O)C1=CC=CC=C1 | C11H11NOS
reactant | methyl iodide | 0.15 ml | CI | CH3I
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Methyl 1-(4-Methyl-5-thiazolyl)-1-phenylmethyl Ether | CC=1N=CSC1C(C1=CC=CC=C1)OC | C12H13NOS
